US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (130 mg) was reacted with 2-acetylamino-5-methyl-thiazole-4-sulfonyl chloride (54 mg) to furnish (S)-2-({(S)-7-(2-acetylamino-5-methyl-thiazole-4-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (LCMS m/z:. 965) according to General Procedure E. The title compound (16 mg) was prepared by the hydrolysis of (S)-2-({(S)-7-(2-acetylamino-5-methyl-thiazole-4-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (20 mg) using General Procedure B. LCMS (m/z): 952.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 130 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | 2-acetylamino-5-methyl-thiazole-4-sulfonyl chloride | 54 mg | C(C)(=O)NC=1SC(=C(N1)S(=O)(=O)Cl)C | C6H7ClN2O3S2
product | (S)-2-({(S)-7-(2-acetylamino-5-methyl-thiazole-4-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C=3N=C(SC3C)NC(C)=O)=O | C48H41Cl2N5O9S2
